US08049015B2
5-Bromo-3-pyridylacetic acid was treated with 5% concentrated sulfuric acid in EtOH at reflux overnight to give (5-bromo-pyridin-3-yl)-acetic acid ethyl ester.

reactant | 5-Bromo-3-pyridylacetic acid | BrC=1C=C(C=NC1)CC(=O)O | C7H6BrNO2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | EtOH | CCO | C2H6O
product | (5-bromo-pyridin-3-yl)-acetic acid ethyl ester | C(C)OC(CC=1C=NC=C(C1)Br)=O | C9H10BrNO2
